US04925849
(2R)-1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl) acryloyl]-2-ethylpiperidine (trans isomer)(1.79 g) was converted to hydrobromic acid salt in a usual manner. The crystals were recrystallized from a mixture of ethyl acetate and acetone to give yellow crystals of (2R)-1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine.hydrobromide (trans isomer)(1.48 g).

reactant | (2R)-1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl) acryloyl]-2-ethylpiperidine | 1.79 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1[C@@H](CCCC1)CC | C23H25N3O
reactant | hydrobromic acid | Br | BrH
product | (2R)-1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine.hydrobromide | 1.48 g | Br.C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1[C@@H](CCCC1)CC | InChI=1S/C23H25N3O.BrH/c1-2-19-12-6-8-16-25(19)22(27)15-14-20-21-13-7-9-17-26(21)24-23(20)18-10-4-3-5-11-18;/h3-5,7,9-11,13-15,17,19H,2,6,8,12,16H2,1H3;1H/t19-;/m1./s1
